US07425634B2
(7e) 2-(((4-((2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methoxy)-3-methylpyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole
To a toluene/methanol (10:1) (20 ml) solution of the 2-(((4-((2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole (305 mg, 700 mmol) obtained in the step (7d), a toluene/methanol (10:1) (5 ml) solution of 3-chloroperbenzoic acid (167 mg, 630 μmol as the content was regarded as 65%) was added dropwise at −50° C. to −60° C. for 5 minutes in a nitrogen atmosphere. The mixture was stirred for 2 hours in the same conditions. To the reaction mixture, a saturated aqueous solution of sodium hydrogen carbonate was added and the resultant mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (NH silica gel, elution solvent: ethyl acetate/methanol) to obtain the title compound (215 mg, yield: 68%) as a light yellow foam.

reactant | 2-(((4-((2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 700 mmol, 305 mg | FCC1(OCC(CO1)COC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C)CF | C21H23F2N3O3S
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene methanol | 5 ml | C1(=CC=CC=C1)C.CO
solvent | toluene methanol | 20 ml | C1(=CC=CC=C1)C.CO
product | 2-(((4-((2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methoxy)-3-methylpyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole | 215 mg, yield: 68% | FCC1(OCC(CO1)COC1=C(C(=NC=C1)CS(=O)C1=NC2=C(N1)C=CC=C2)C)CF | C21H23F2N3O4S
